US06465504B1
3,5-Bis(2-hydroxyphenyl)-1-(4-diethylaminobenzyl)-1H-[1,2,4]triazole
5.0 g of 2-(2-hydroxyphenyl)benz[e][1,3]oxazin-4-one are boiled under reflux for 18 h with 5.4 g of 4-diethylaminobenzylhydrazine hydrochloride and 6.7 ml of triethylamine in 50 ml of ethanol. The mixture is poured onto water and extracted with ethyl acetate. The combined organic phases are dried over sodium sulfate and concentrated on a rotary evaporator. The residue is crystallized from isopropanol. After drying, 3,5-bis(2-hydroxyphenyl)-1-(4-diethylaminobenzyl)-1H-[1,2,4]triazole remains as colorless crystals of m.p. 125-127° C.

reactant | 2-(2-hydroxyphenyl)benz[e][1,3]oxazin-4-one | 5.0 g | OC1=C(C=CC=C1)C=1OC2=C(C(N1)=O)C=CC=C2 | C14H9NO3
reactant | 4-diethylaminobenzylhydrazine hydrochloride | 5.4 g | Cl.C(C)N(C1=CC=C(CNN)C=C1)CC
reactant | triethylamine | 6.7 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3,5-Bis(2-hydroxyphenyl)-1-(4-diethylaminobenzyl)-1H-[1,2,4]triazole | OC1=C(C=CC=C1)C1=NN(C(=N1)C1=C(C=CC=C1)O)CC1=CC=C(C=C1)N(CC)CC | C25H26N4O2
